US08258144B2
2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(cyclopropylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile
A mixture of 2-chloro-4-(cyclopropylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile (150 mg, 0.387 mmol), 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone (132 mg, 0.602 mmol) and trimethylsilyl chloride (0.200 mL, 1.58 mmol) in nBuOH (4 mL) was stirred at 135° C. for 20 h. It was concentrated in vacuo. The residue was purified by HPLC to give the titled compound (25 mg). MS 417.4 (M+H); UV 203.4, 254.0, 291.5 nm.

reactant | 2-chloro-4-(cyclopropylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | 0.387 mmol, 150 mg | ClC=1N=C(C2=C(N1)N(C=C2C#N)S(=O)(=O)C2=CC=C(C)C=C2)NC2CC2 | C17H14ClN5O2S
reactant | 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone | 0.602 mmol, 132 mg | NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C12H17N3O
reactant | trimethylsilyl chloride | 1.58 mmol, 0.200 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 4 mL | C(CCC)O | C4H10O
product | 2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(cyclopropylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | 25 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC=1N=C(C2=C(N1)NC=C2C#N)NC2CC2 | C22H24N8O
